US04904671
(c) 4-(2-Methylbenzimidazol-1-yl)butanol
2-(4-Hydroxybutylamino)phenylamine (3.6 g) and ethyl acetimidate hydrochloride (3.7 g) was dissolved in ethanol (20 ml) and stirred at room temperature for 11/2 hours. The mixture was evaporated under vacuum and the residue partitioned between ethyl acetate (30 ml) and water (20 ml). The organic phase was separated, dried over Na2SO4, filtered and evaporated to give the title compound as a brown oil (2.8 g).

reactant | 2-(4-Hydroxybutylamino)phenylamine | 3.6 g | OCCCCNC1=C(C=CC=C1)N | C10H16N2O
reactant | ethyl acetimidate hydrochloride | 3.7 g | Cl.C(C)(OCC)=N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(2-Methylbenzimidazol-1-yl)butanol | 2.8 g | CC1=NC2=C(N1CCCCO)C=CC=C2 | C12H16N2O
